US06420555B1
Preparation 5: 1-Methylsulfonyl-3-(3-chlorophenyl)indoline
To a solution of 3-(3-chlorophenyl)indoline (3.88 g, 16.9 mmol) and DIEA (2.40 g, 18.6 mmol) in DCM (40 mL) was added dropwise methanesulfonyl chloride (2.13 g, 18.6 mmol) at about 0° C. The mixture was stirred for about 1.5 hours. The solution was diluted with DCM and washed with saturated NaHCO3 solution (2 times), 1N HCl aqueous solution (2 times) and brine (2 times) and dried over anhydrous MgSO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica, eluting with EtOAc/hexane 1:4. The title compound was obtained as an oil Yield: 4.40 9, 85%. Rf=0.41, silica, EtOAc/hexane 1:2. 1H NMR (300 MHz, CDCl3) δ:7.52 (d, 1H), 7.24-7.34 (m, 3H), 7.20 (s, 1H), 7.02-7.14 (m, 3H), 4.59 (t, 1H), 4.38 (t, 1H), 3.87 (dd, 1H), 2.92 (s, 3H).

reactant | 3-(3-chlorophenyl)indoline | 16.9 mmol, 3.88 g | ClC=1C=C(C=CC1)C1CNC2=CC=CC=C12 | C14H12ClN
reactant | DIEA | 18.6 mmol, 2.40 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 18.6 mmol, 2.13 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-Methylsulfonyl-3-(3-chlorophenyl)indoline | CS(=O)(=O)N1CC(C2=CC=CC=C12)C1=CC(=CC=C1)Cl | C15H14ClNO2S
